US08383619B2
The crude methyl 4-benzyloxy-5-isopropyl-2-(methoxymethyloxy)benzoate was dissolved in methanol (20 ml), 10% palladium on carbon (160 mg) was added and the mixture was stirred at room temperature under a hydrogen atmosphere for 16 hours. The mixture was filtered, the catalyst was rinsed with methanol (3×5 ml) and the combined filtrates were evaporated in vacuo to afford crude methyl 4-hydroxy-5-isopropyl-2-(methoxymethyloxy)benzoate as a colourless oily solid that was used in the next step without further purification. 1H NMR (DMSO-d6) 10.19 (1H, br s), 7.52 (1H, s), 6.57 (1H, s), 5.13 (2H, s), 3.73 (3H, s), 3.40 (3H, s), 3.11 (1H, m), 1.13 (6H, d). MS: [M−H]− 253.

reactant | methyl 4-benzyloxy-5-isopropyl-2-(methoxymethyloxy)benzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1C(C)C)OCOC | C20H24O5
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 160 mg | [Pd] | Pd
product | methyl 4-hydroxy-5-isopropyl-2-(methoxymethyloxy)benzoate | OC1=CC(=C(C(=O)OC)C=C1C(C)C)OCOC | C13H18O5
